data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_383199_0,[C:1](\[N:2]([H:7])[H:8])([O:3][O:4][H:6])=[N:5]\[H:9]>>[C:1](\[O:3][N:2]([H:7])[H:8])([O:4][H:6])=[N:5]\[H:9],71.31600250000275
MR_548045_0,[C:1](=[C:3]([N:2]([H:8])[H:9])[H:10])([O:4][H:6])[O:5][H:7]>>[C:1](/[C:3](=[N:2]\[H:8])[H:10])([O:4][H:6])([O:5][H:7])[H:9],71.0957500000238
MR_515398_1,[C:1]([C:4]([C:2](/[C:3]([N:6]([H:13])[H:14])=[C:8](/[O:9][H:10])[H:17])[N:5]([H:11])[H:12])[N:7]([H:15])[H:16])([H:18])([H:19])[H:20]>>[C:1]([C:4]1([N:7]([H:15])[H:16])[C:2]([N:5]([H:11])[H:12])=[C:3]([N:6]([H:13])[H:14])[C:8]1([O:9][H:10])[H:17])([H:18])([H:19])[H:20],29.009324999987456
MR_245702_0,[C:1](/[C:5](=[C:8](/[C:4]([C:6]([C:2]([H:17])([H:18])[H:21])[C:3]([H:19])([H:20])[H:22])[N:7]([H:11])[H:12])[H:13])[O:9][H:10])([H:14])([H:15])[H:16]>>[C:1]([C@@:5]1([O:9][H:10])[C:6]([C:2]([H:17])([H:18])[H:21])([C:3]([H:19])([H:20])[H:22])[C:4]([N:7]([H:11])[H:12])=[C:8]1[H:13])([H:14])([H:15])[H:16],44.52049750002601
MR_615916_0,[C:1]([C:4]([C:2]([H:16])([H:17])[H:18])=[C:3]([N:5]([H:9])[H:10])[N:6]([H:11])[H:12])([C:7](=[O:8])[H:13])([H:14])[H:15]>>[C:1]1([H:14])([H:15])[C:3]([N:5]([H:9])[H:10])([N:6]([H:11])[H:12])[C:4]1([C:2]([H:16])([H:17])[H:18])[C:7](=[O:8])[H:13],50.523789999992914
MR_484118_1,[C:1]([N:3](/[C:4]([C:2]([H:16])([H:17])[H:18])=[N:8]/[N:5]([H:10])[H:11])[O:7][H:9])([N:6]([H:12])[H:13])([H:14])[H:15]>>[C:1]([N:6]([H:12])[H:13])([N:8](/[C:4]([C:2]([H:16])([H:17])[H:18])=[N:3]\[O:7][H:9])[N:5]([H:10])[H:11])([H:14])[H:15],51.57924500000334
MR_5498_1,[C:1](/[N:6]=[C:5](\[N:2]([N:3]([H:9])[H:10])[N:4]([H:7])[H:8])[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:6]([N:3]([H:9])[H:10])[C:5]([N:2][N:4]([H:7])[H:8])[H:11])([H:12])([H:13])[H:14],72.83015999999648
MR_517839_0,[N:1](/[C:2](=[N:5]/[O:4][H:7])[H:9])([O:3][H:6])[H:8]>>[N:1]1([H:8])[C:2]([O:3][H:6])([H:9])[N:5]1[O:4][H:7],59.75243249998485
MR_466992_1,[C:1]1([C:3]([H:11])([H:12])[H:13])([C:5](=[C:6]([H:14])[H:15])[H:10])[C:2]([H:8])([H:9])[N:4]1[H:7]>>[C:1](\[C:2]([C:5](=[C:6]([H:14])[H:15])[H:10])([H:8])[H:9])([C:3]([H:11])([H:12])[H:13])=[N:4]/[H:7],72.40095000001006
MR_471804_0,[C:1](/[N:7]=[C:3](\[C:2]([H:13])([H:14])[H:15])[C:4]([N:5]([H:8])[H:9])=[C:6]([H:16])[H:17])([H:10])([H:11])[H:12]>>[C:1]([N:7]1[C:3]([C:2]([H:13])([H:14])[H:15])=[C:4]([N:5]([H:8])[H:9])[C:6]1([H:16])[H:17])([H:10])([H:11])[H:12],51.994022500026205
MR_287589_2,[C:1]([N:3]([N:4]([C:2]([H:15])([H:16])[H:17])/[C:6](=[N:7]/[H:10])[H:11])[N:5]([H:8])[H:9])([H:12])([H:13])[H:14]>>[C:1]([N:3]([N:4]([C:2]([H:15])([H:16])[H:17])[N:5]([H:8])[H:9])/[C:6](=[N:7]/[H:10])[H:11])([H:12])([H:13])[H:14],65.13826500001258
MR_253391_0,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([C:4]([N:5]([H:10])[H:11])=[O:8])=[O:7])([N:6]([H:12])[H:13])[H:9]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:4]([C:3]([N:5]([H:10])[H:11])=[O:7])=[O:8])([N:6]([H:12])[H:13])[H:9],64.98703750000203
MR_321336_0,[C:1]([C:4]([N:2](/[C:3]([N:5]([H:11])[H:12])=[N:7]/[O:6][H:9])[H:10])=[O:8])([H:13])([H:14])[H:15]>>[C:1]([C:4]([N:7](/[C:3](=[N:2]\[H:10])[N:5]([H:11])[H:12])[O:6][H:9])=[O:8])([H:13])([H:14])[H:15],44.02728250002284
MR_433317_1,[C:1]([C:3]([O:7][H:10])=[O:9])(/[C:4](=[C:5](\[C:2]([H:16])([H:17])[H:18])[N:6]([H:12])[H:13])[O:8][H:11])([H:14])[H:15]>>[C:1](=[C:4]([C:5]([C:2]([H:16])([H:17])[H:18])([C:3]([O:7][H:10])=[O:9])[N:6]([H:12])[H:13])[O:8][H:11])([H:14])[H:15],65.38298999996542
MR_126029_2,[C@:1]([C:2]([H:11])([H:12])[H:13])(/[C:5]([C:3]([H:14])([H:15])[H:16])=[C:6](\[C:4]([H:17])([H:18])[H:19])[H:10])([N:7]=[O:8])[H:9]>>[C@:1]1([C:2]([H:11])([H:12])[H:13])([H:9])[C:5]([C:3]([H:14])([H:15])[H:16])([N:7][O:8])[C@@:6]1([C:4]([H:17])([H:18])[H:19])[H:10],64.56535749996092
MR_247937_0,[C:1](/[N:4]=[N:7]/[H:11])([N:5]([C:6]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])[O:8][H:10])[H:9])([H:12])[H:13]>>[C:1]([N:4]([C:2]([H:14])([H:15])[H:16])[N:7]([H:10])[H:11])([N:5]([C:6]([C:3]([H:17])([H:18])[H:19])=[O:8])[H:9])([H:12])[H:13],64.69273999999601
MR_630572_1,[C:1]([N:3](/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:7]\[O:5][H:8])[H:10])([O:6][H:9])([H:11])[H:12]>>[C:1]([O:6][H:9])([N:7](/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:3]/[H:10])[O:5][H:8])([H:11])[H:12],68.57633749999991
MR_38785_1,[C:1]([N:5]([C:2]([H:12])([H:13])[H:14])[C:7]([C:4]([H:18])([H:19])[H:20])=[O:8])([N:6]([C:3]([H:15])([H:16])[H:17])[H:9])([H:10])[H:11]>>[C:1]([N:5]([C:2]([H:12])([H:13])[H:14])[N:6]([C:3]([H:15])([H:16])[H:17])[H:9])([C:7]([C:4]([H:18])([H:19])[H:20])=[O:8])([H:10])[H:11],58.49554999998361
MR_299527_0,[C:1]1([C:3](/[C:5]([C:4]([H:16])([H:17])[H:18])=[N:8]\[N:6]([H:10])[H:11])([H:14])[H:15])([H:9])[C:2]([H:12])([H:13])[O:7]1>>[C:1]1([C:2]([O:7][H:10])([H:12])[H:13])([H:9])[C:3]([H:14])([H:15])[C:5]1([C:4]([H:16])([H:17])[H:18])/[N:8]=[N:6]/[H:11],49.54551749996597
